US07244722B2
3-(1-Piperazinyl)-1-[2-(2,4,5-trifluorophenoxy)ethyl]-2(1H)-pyrazinone, Hydrochloride
2,4,5-Trifluorophenol (533 mg, 3.60 mmol), 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (972 mg, 3.00 mmol), TMAD (619 mg, 3.60 mmol) and polymer-bound triphenylphosphine (Fluka) (1.2 g, 3.6 mmol) were shaken in dichloromethane (10 mL) under nitrogen for about 21 h. The polymer was filtered off and washed with dichloromethane. The solvent was evaporated and the residue was dissolved in CHCl3 and washed with 1 M Na2CO3 and brine. Removal of solvent in vacuo and purification of the residue by column chromatography on silica gel using CHCl3→CHCl3/MeOH (98:2) as eluent gave 791 mg (58%) of the title compound as its N-t-BOC derivative. The N-t-BOC intermediate (700 mg, 1.54 mmol) was treated with TFA/dichloromethane/H2O (42:53:5; 4 mL) and kept at room temperature for 50 min with stirring. The solution was concentrated and the residue precipitated with MeOH/ether. This material was dissolved in 50% aqueous MeOH and passed through an anion exchange resin (Dowex-1 X8, Cl−, 4 g) eluting with 50% aqueous MeOH. Evaporation of the solvent in vacuum gave the title compound. Yield: 513 mg (85%); mp 193-195° C.; MS-EI m/z 354 (M)+; HRMS m/z calcd for C16H17F3N4O2 (M)+ 354.1304, found 354.1301. Anal. (C16H17F3N4O2.HCl) C, H, N.

reactant | 2,4,5-Trifluorophenol | 3.60 mmol, 533 mg | FC1=C(C=C(C(=C1)F)F)O | C6H3F3O
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 3.00 mmol, 972 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | TMAD | 3.60 mmol, 619 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | triphenylphosphine | 3.6 mmol, 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(1-Piperazinyl)-1-[2-(2,4,5-trifluorophenoxy)ethyl]-2(1H)-pyrazinone, Hydrochloride | 791 mg, 58% | Cl.N1(CCNCC1)C=1C(N(C=CN1)CCOC1=C(C=C(C(=C1)F)F)F)=O | InChI=1S/C16H17F3N4O2.ClH/c17-11-9-13(19)14(10-12(11)18)25-8-7-23-6-3-21-15(16(23)24)22-4-1-20-2-5-22;/h3,6,9-10,20H,1-2,4-5,7-8H2;1H
